US07067658B2
[4-(4-Methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine (0.43 g, 0.36 mmol) and SnCl2 (0.2 g, 1.08 mmol) in ethanol (2 mL) were heated to 70° C. for 4 h. The solution was cooled to room temperature and quenched with saturated aqueous NaHCO3 then extracted with EtOAc, washed with H2O, brine, dried (Na2SO4), filtered, and concentrated in vacuo to give a crude yield of 0.40 g (99%) of 4-(4-methoxy-2-methyl-phenyl)-N2-(1-methoxymethyl-propyl)-pyridine-2,3-diamine; MS(EI) m/z 316.28 [(M+H)+, 100]. The crude product was taken on to Part E.

reactant | [4-(4-Methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine | 0.36 mmol, 0.43 g | COC1=CC(=C(C=C1)C1=C(C(=NC=C1)NC(CC)COC)[N+](=O)[O-])C | C18H23N3O4
reactant | SnCl2 | 1.08 mmol, 0.2 g | Cl[Sn]Cl
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-(4-methoxy-2-methyl-phenyl)-N2-(1-methoxymethyl-propyl)-pyridine-2,3-diamine | 99% | COC1=CC(=C(C=C1)C1=C(C(=NC=C1)NC(CC)COC)N)C | C18H25N3O2
